US06627651B1
A suspension of magnesium (0.37 g) in THF (5 ml) was stirred under a nitrogen atmosphere, and thereto was then added dibromoethane (a catalytic amount) and was subsequently added dropwise a solution of 1-bromo-4-(3-ethoxypropyl)benzene (3.4 g) in anhydrous THF (30 ml). The resulting mixture was heated at 50° C. for 1.5 hours and was then cooled to −78° C., and thereto was added dropwise trimethyl borate (3.1 ml). The reaction mixture was brought back to the room temperature and was stirred overnight. The reaction mixture was mixed with 1 N hydrochloric acid, was concentrated and was extracted with ethyl acetate. The organic layer was washed with water and an aqueous saturated solution of sodium chloride, and was dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent, and the residue was purified by silica gel chromatography (ethyl acetate/triethylamine) to obtain 4-(3-ethoxypropyl)phenylboric acid (1.25 g) as a light yellow, oily substance.

reactant | magnesium | 0.37 g | [Mg] | Mg
reactant | dibromoethane | BrC(C)Br | C2H4Br2
reactant | 1-bromo-4-(3-ethoxypropyl)benzene | 3.4 g | BrC1=CC=C(C=C1)CCCOCC | C11H15BrO
reactant | trimethyl borate | 3.1 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(3-ethoxypropyl)phenylboric acid | 1.25 g | C(C)OCCCC1=CC=C(C=C1)OB(O)O | C11H17BO4
